US06750230B2
4-[(3,5-Dibromophenyl)sulfanyl]-3,5-heptanedione
Potassium carbonate (1.9 g, 14 mmol) was added to a solution of 3,5-dibromobenzenethiol (2.84 g, 10.5 mmol) (Preparation 48) and 4-chloroheptane-3,5-dione (1.7 g, 10.5 mmol) (Preparation 40) in acetone (12 ml) producing a white suspension. The mixture was stirred at room temperature for 15 hours. The mixture was concentrated under reduced pressure and the residue was partitioned between dichloromethane (100 ml) and 1N hydrochloric acid (70 ml). The aqueous layer was extracted with further dichloromethane (2×100 ml). The combined organic layers were washed with brine (50 ml), dried over magnesium sulphate, filtered and concentrated under reduced pressure to leave a pink oil. The crude product was purified by flash chromatography on silica gel eluting with pentane:dichloromethane (1:1, by volume) to provide the title compound (3 g) as a pink oil.

reactant | Potassium carbonate | 14 mmol, 1.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,5-dibromobenzenethiol | 10.5 mmol, 2.84 g | BrC=1C=C(C=C(C1)Br)S | C6H4Br2S
reactant | 4-chloroheptane-3,5-dione | 10.5 mmol, 1.7 g | ClC(C(CC)=O)C(CC)=O | C7H11ClO2
solvent | acetone | 12 ml | CC(=O)C | C3H6O
product | 4-[(3,5-Dibromophenyl)sulfanyl]-3,5-heptanedione | 3 g | BrC=1C=C(C=C(C1)Br)SC(C(CC)=O)C(CC)=O | C13H14Br2O2S
